US08212045B2
A flask was charged with 5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)picolinonitrile (35.19 g, 88.1 mmol), and sulfuric acid (227.3 g, 2317 mmol) and stirred at ambient temperature overnight. Water (100 mL) was added very slowly to the reaction which was cooled in an ice bath, and then 150 g of ice was added. NaOH (40%) was slowly added until pH was adjusted to about 12. The mixture was extracted ethyl acetate (750 mL×2), and dichloromethane (500 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo to afford 5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)picolinamide (27.69 g, 77.9 mmol, 89% yield).

reactant | 5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)picolinonitrile | 88.1 mmol, 35.19 g | N1=C(C=CC=C1)SC=1C=C(C(=NC1)C#N)OC=1C(=NN(C1C)C)C | C17H15N5OS
reactant | sulfuric acid | 2317 mmol, 227.3 g | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
solvent | Water | 100 mL | O | H2O
product | 5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)picolinamide | 77.9 mmol, 27.69 g, 89% yield | N1=C(C=CC=C1)SC=1C=C(C(=NC1)C(=O)N)OC=1C(=NN(C1C)C)C | C17H17N5O2S
